US04594601
To a mixture of 58.5 g of N-acetyl-2,4-dimethoxyaniline and 70.7 g of bromobenzene, 29 g of anhydrous potassium carbonate, 2.1 g of copper powder and 0.8 g of iodine were added and reacted at a temperature of from 170° to 180° C. for 20 hours. Then, to this reaction mixture, 30 g of potassium hydroxide and 100 ml of isoamyl alcohol were added and reacted at a temperature of from 120° to 130° C. for 3 hours. To this reaction mixture, 300 ml of toluene was added, and the toluene layer was separated by liquid separation, washed with water, concentrated and then purified by distillation under reduced pressure, whereby 40 g of oily N-phenyl-2,4-dimethoxyaniline was obtained. The boiling point of this product was from 161° to 164° C./2 mmHg.

reactant | N-acetyl-2,4-dimethoxyaniline | 58.5 g | C(C)(=O)NC1=C(C=C(C=C1)OC)OC | C10H13NO3
reactant | bromobenzene | 70.7 g | BrC1=CC=CC=C1 | C6H5Br
reactant | potassium carbonate | 29 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 30 g | [OH-].[K+]
catalyst | copper | 2.1 g | [Cu] | Cu
catalyst | iodine | 0.8 g | II | I2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | isoamyl alcohol | 100 ml | C(CC(C)C)O | C5H12O
product | N-phenyl-2,4-dimethoxyaniline | 40 g | C1(=CC=CC=C1)NC1=C(C=C(C=C1)OC)OC | C14H15NO2
